US05719182
b) Methyl(1RS,2SR,3RS)-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate
To a solution of (1RS,2SR,3RS)-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid (1.98 g, 3.91 mmol) in acetonitrile (15 ml) was added DBU (0.655 g, 4.3 mmol) followed by iodomethane (2.77 g, 19.5 mmol). The reaction mixture was stirred at room temperature 3.5 h then partitioned between EtOAc and 3N HCl. The organic extract was washed with H2O, saturated NaHCO3 solution, H2O, then brine, dried (Na2SO4) and solvent removed in vacuo to provide the title compound (1.79 g, 88%) as an oil.

reactant | (1RS,2SR,3RS)-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid | 3.91 mmol, 1.98 g | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O)OCOC | C29H30O8
reactant | DBU | 4.3 mmol, 0.655 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | iodomethane | 19.5 mmol, 2.77 g | IC | CH3I
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl(1RS,2SR,3RS)-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 1.79 g, 88% | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC)OCOC | C30H32O8
